US07368578B2
(4-([2-(2-Furyl)-1,3-oxazol-4-yl]methoxy)-3-methoxyphenyl)methanol (5.0 g) was added to thionyl chloride (5 mL) at 0° C., and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate, saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-1,3-oxazole as pale-brown crystals (3.95 g, yield 74%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 123-124° C.

reactant | (4-([2-(2-Furyl)-1,3-oxazol-4-yl]methoxy)-3-methoxyphenyl)methanol | 5.0 g | O1C(=CC=C1)C=1OC=C(N1)COC1=C(C=C(C=C1)CO)OC | C16H15NO5
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-1,3-oxazole | 3.95 g, yield 74% | ClCC1=CC(=C(OCC=2N=C(OC2)C=2OC=CC2)C=C1)OC | C16H14ClNO4
